### PR TITLE
refactor: provide a properly encapsulated implementation of OmegaLanguage

### PR DESCRIPTION
**Pull request by ctchou**
This PR provides a properly encapsulated implementation of OmegaLanguage, using a one-field `structure`.  It is influenced and will be affected by mathlib#36934, but it is not dependent on it.

### CODE REVIEW

**Comment by ctchou** [comment]
Rebase on the current `main` branch.  The "temporary" commit is removed.

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 1]
```diff
@@ -55,64 +56,87 @@ denote languages (namely, sets of finite sequences of type `List α`).
 * Prove more theorems about omegaLim and map.
 -/
 
+-- This section is to be removed after mathlib#36934 is merged into mathlib.
+section Mathlib_36934
+
+variable {α β γ : Type*}
+
+/-- The set of lists in a language. -/
+def Language.toSet (l : Language α) := (l : Set (List α))
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: I think

```suggestion
def Language.toSet (l : Language α) : Set (List α) := l
```
is what we'd like here.

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 2]
```diff
@@ -55,64 +56,87 @@ denote languages (namely, sets of finite sequences of type `List α`).
 * Prove more theorems about omegaLim and map.
 -/
 
+-- This section is to be removed after mathlib#36934 is merged into mathlib.
+section Mathlib_36934
+
+variable {α β γ : Type*}
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: I'd move this `variable` above the section and only have it once.

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 3]
```diff
@@ -55,64 +56,87 @@ denote languages (namely, sets of finite sequences of type `List α`).
...
+instance : CompleteAtomicBooleanAlgebra (ωLanguage α) :=
+  equiv.completeAtomicBooleanAlgebra
 
-instance : Membership (ωSequence α) (ωLanguage α) := ⟨Set.Mem⟩
-instance : Singleton (ωSequence α) (ωLanguage α) := ⟨Set.singleton⟩
-instance : Insert (ωSequence α) (ωLanguage α) := ⟨Set.insert⟩
+instance : Membership (ωSequence α) (ωLanguage α) := ⟨fun p xs ↦ xs ∈ p.toSet⟩
+instance : Singleton (ωSequence α) (ωLanguage α) := ⟨fun xs ↦ ⟨{xs}⟩⟩
+instance : Insert (ωSequence α) (ωLanguage α) := ⟨fun xs p ↦ ⟨p.toSet.insert xs⟩⟩
 instance : HasSubset (ωLanguage α) := ⟨(· ≤ ·)⟩
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: You can write:

```suggestion
instance : SetLike (ωLanguage α) (ωSequence α) where
  coe := ωLanguage.toSet
  coe_injective' := by grind [Function.Injective, ωLanguage]
```
I'm not sure what is preferred, since you also have the coercion in the opposite direction above.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 4]
```diff
@@ -83,8 +84,10 @@ theorem IsRegular.bot : (⊥ : ωLanguage Symbol).IsRegular := by
     start := ∅
     accept := ∅ }
   use Unit, inferInstance, na
-  ext xs
-  simp +instances [na]
+  apply mem_ext
+  intro xs
+  simp only [mem_language, notMem_bot]
+  simp [na, Accepts]
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]:
```suggestion
  simp [na, Accepts]
```

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 5]
```diff
@@ -206,12 +209,14 @@ theorem IsRegular.eq_fin_iSup_hmul_omegaPow [Inhabited Symbol] (p : ωLanguage S
...
-    ext xs
+    apply mem_ext
+    intro xs
     simp only [mem_iSup]
     refine ⟨?_, by grind⟩
     rintro ⟨s, h_s, t, h_t, h_mem⟩
     use eq.invFun (⟨s, h_s⟩, ⟨t, h_t⟩)
-    simp [h_mem]
+    simp only [Nat.card_coe_set_eq, Equiv.invFun_as_coe, Equiv.apply_symm_apply, mem_def]
+    exact h_mem
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]: I think

```suggestion
    simpa [mem_def]
```
is okay?

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 6]
```diff
@@ -221,16 +226,24 @@ theorem IsRegular.eq_fin_iSup_hmul_omegaPow [Inhabited Symbol] (p : ωLanguage S
...
-  grind
+    (hs : Saturates (fun i ↦ (p i).toSet) q.toSet)
+    (hc : ⨆ i, p i = ⊤) (hr : ∀ i, (p i).IsRegular) : q.IsRegular := by
+  suffices hu : q = ⨆ i ∈ {i | ((p i) ⊓ q).toSet.Nonempty}, (p i) by
+    rw [hu]
+    apply IsRegular.iSup
+    grind
+  have hc' : ⋃ i, (p i).toSet = univ := by grind [iSup_def, top_def]
+  have hq := saturates_eq_biUnion hs hc'
+  ext1
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]: I think

```suggestion
  ext : 1
```
is preferred?

File: Cslib/Computability/Automata/DA/Buchi.lean [hunk 7]
```diff
@@ -21,14 +21,15 @@ open scoped FinAcc Buchi
...
+of the language accepted by the same automaton. -/
 @[scoped grind =]
 theorem buchi_eq_finAcc_omegaLim {da : DA State Symbol} {acc : Set State} :
     language (Buchi.mk da acc) = (language (FinAcc.mk da acc))↗ω := by
-  ext xs
-  simp +instances
+  apply mem_ext
+  intro xs
+  simp only [ωAcceptor.mem_language, Acceptor.mem_language, mem_omegaLim]
+  grind [ωAcceptor.Accepts, Acceptor.Accepts]
```
Comment (chenson2018) [inline Cslib/Computability/Automata/DA/Buchi.lean]: It's okay to not use `simp only` before `grind`, but also it seems like it's not needed here?

```suggestion
  grind [ωAcceptor.Accepts, Acceptor.Accepts]
```

File: Cslib/Computability/Automata/NA/Sum.lean [hunk 8]
```diff
@@ -58,21 +58,18 @@ namespace Buchi
...
-  rw [mem_iUnion]
+    ⨆ i, language (Buchi.mk (na i) (acc i)) := by
+  apply mem_ext
+  intro xs
+  simp only [mem_language, mem_iSup]
   constructor
   · rintro ⟨ss, h_run, h_acc⟩
     simp only [mem_iUnion] at h_acc
-    #adaptation_note
-    /-- A grind regression found moving to nightly-2026-03-31 (changes from lean#13166) -/
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NA/Sum.lean:75]: I think this note still applies, since before we did not have to pass `Accept` to `grind`.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
I'm a bit unsure about the coercion you added, but otherwise this looks good in following the Mathlib changes. Thanks for being proactive about this!

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 3 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 4 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 5 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.  I also added a comment saying that this `simp` is where the `set_option` before the theorem is needed.  Lean/mathlib seems to have lost the ability to simplify `Equiv`-related expression at some point.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 6 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.  Also fixed a number of `ext1` in `OmegaLanguage.lean`.

File: Cslib/Computability/Automata/DA/Buchi.lean (hunk 7 above)
Comment (ctchou) [reply Cslib/Computability/Automata/DA/Buchi.lean]: Fixed.

File: Cslib/Computability/Automata/NA/Sum.lean (hunk 8 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NA/Sum.lean:75]: Fixed.

**Review by fmontesi — APPROVED** [review]
LGTM after the last changes.

**Review by chenson2018 — APPROVED** [review]
